US04548743
PREPARATION OF 1-(4-PENTENOYL)-3,3-DIMETHYL CYCLOHEXANE
Into a 2 liter autoclave is placed 672 grams of the dimethyl ketal of 1-acetyl-3,3-dimethyl cyclohexane prepared according to Example I; 348 grams of allyl alcohol; and 15 grams of sodium acetate. The autoclave is sealed and the contents are heated to 150° C. and maintained at 150° C. for a period of five hours. At the end of the five hour period the autoclave contents are cooled and the autoclave is opened. The resulting product is distilled on a 12" Goodloe column yielding the following fractions:

reactant | 1-acetyl-3,3-dimethyl cyclohexane | C(C)(=O)C1CC(CCC1)(C)C | C10H18O
reactant | allyl alcohol | 348 grams | C(C=C)O | C3H6O
reactant | sodium acetate | 15 grams | C(C)(=O)[O-].[Na+]
product | 1-(4-PENTENOYL)-3,3-DIMETHYL CYCLOHEXANE | C(CCC=C)(=O)C1CC(CCC1)(C)C | C13H22O
